US08377967B2
Production of 4-(2-Bromo-9,10-dihydro-1-thiabenzo[f]azulen-4-ylidene)-1-methylpiperidine [Compound 212]
Bromine (1.0 mL, 19.5 mmol) was added dropwise to a chloroform (50 mL) solution of 4-(9,10-dihydro-1-thiabenzo[f]azulen-4-ylidene)-1-methylpiperidine (5.76 g, 19.5 mmol) at 0° C., and the mixture was stirred at room temperature for 2 hours. Thereafter, a saturated aqueous sodium bicarbonate solution was added to the mixture, and an organic layer was separated. The organic layer was washed with a saturated sodium chloride solution, and dried over anhydrous sodium sulfate. The solvents were distilled off under a reduced pressure, and the residue was purified by column chromatography (chloroform-methanol=9:1), to give 5.6 g (91%) of the captioned compound in the form of white crystals.

reactant | Bromine | 19.5 mmol, 1.0 mL | BrBr | Br2
reactant | 4-(9,10-dihydro-1-thiabenzo[f]azulen-4-ylidene)-1-methylpiperidine | 19.5 mmol, 5.76 g | S1C=CC=2C(C3=C(CCC12)C=CC=C3)=C3CCN(CC3)C | C19H21NS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-(2-Bromo-9,10-dihydro-1-thiabenzo[f]azulen-4-ylidene)-1-methylpiperidine | 5.6 g, 91% | BrC=1SC=2CCC3=C(C(C2C1)=C1CCN(CC1)C)C=CC=C3 | C19H20BrNS
